US04346087
Into an apparatus similar to that in Example 1, were charged 324.1 g (1 mole) of N-(9-octadecenyl)-1,3-propylenediamine and 130.1 g (1 mole) of ethyl acetoacetate. At 110° to 120° C. and under a reduced pressure of 50 mmHg, 18 g of water and 46 g of ethanol had been distilled off to obtain 1-(9-octadecenyl)-4-methyl-3,6,7,8-tetrahydro-1,5-diazocin-2-one.

reactant | N-(9-octadecenyl)-1,3-propylenediamine | 1 mole, 324.1 g | C(CCCCCCCC=CCCCCCCCC)NCCCN | C21H44N2
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 1-(9-octadecenyl)-4-methyl-3,6,7,8-tetrahydro-1,5-diazocin-2-one | C(CCCCCCCC=CCCCCCCCC)N1C(CC(=NCCC1)C)=O | C25H46N2O
